US08859574B2
A mixture of 5-ethyl-1H-pyrazol-3-amine (1.00 g, 6.77 mmol), 2,4,5-trichloropyrimidine (1.24 g, 6.77 mmol) and Na2CO3 (1.79 g, 16.9 mmol) in iso-propanol (15 mL) was stirred in a sealed vial at rt for two days. Water (10 mL) was added. The solid was collected by filtration, washed with water (10 mL) and dried to give 2,5-Dichloro-N-(5-ethyl-1H-pyrazol-3-yl)pyrimidin-4-amine as a light yellow solid; ESMS m/z 258.0 (M+H+).

reactant | 5-ethyl-1H-pyrazol-3-amine | 6.77 mmol, 1.00 g | C(C)C1=CC(=NN1)N | C5H9N3
reactant | 2,4,5-trichloropyrimidine | 6.77 mmol, 1.24 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | Na2CO3 | 16.9 mmol, 1.79 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | iso-propanol | 15 mL | C(C)(C)O | C3H8O
product | 2,5-Dichloro-N-(5-ethyl-1H-pyrazol-3-yl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=NNC(=C1)CC)Cl | C9H9Cl2N5
